US07666879B2
4-[7-(2-Diethylaminomethyl-pyridin-4-yl)-imidazo[1,2-a]pyridin-3-yl]-2-fluoro-phenylamine
Combine diethyl-(4-imidazo[1,2-a]pyridin-7-yl-pyridin-2-ylmethyl)-amine (1.00 g, 3.57 mmol), 4-bromo-2-fluoro-phenylamine (1.36 g, 7.13 mmol) and potassium acetate (0.700 g, 7.13 mmol) in DMSO (4 mL). De-gas the mixture for 10 minutes with N2. Add dichlorobis(triphenylphosphine) palladium (II) (0.250 g, 0.357 mmol); stir the reaction mixture for 14 hours under N2 at 100° C. Purify using an SCX cartridge (10 g VARIAN bond elut), eluting with 1:1 methanol:dichloromethane, then 1:1 2 M NH3 in methanol:dichloromethane. Purify via reverse phase chromatography using a 25 cm by 50.8 mm (i.d.) column w/10 micron particles (MeCN/0.03% HCl H2O (5:95) to 100% MeCN; 30 min). Compound obtained is partitioned between ethyl acetate and 1 N NaOH. Wash the organic layer with aqueous saturated sodium chloride, dry over magnesium sulfate, filter, and concentrate to afford the title compound (0.286 g, 21%). MS(ES), m/z 390 (M+1).

reactant | diethyl-(4-imidazo[1,2-a]pyridin-7-yl-pyridin-2-ylmethyl)-amine | 3.57 mmol, 1.00 g | C(C)N(CC1=NC=CC(=C1)C1=CC=2N(C=C1)C=CN2)CC | C17H20N4
reactant | 4-bromo-2-fluoro-phenylamine | 7.13 mmol, 1.36 g | BrC1=CC(=C(C=C1)N)F | C6H5BrFN
reactant | potassium acetate | 7.13 mmol, 0.700 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | 4-[7-(2-Diethylaminomethyl-pyridin-4-yl)-imidazo[1,2-a]pyridin-3-yl]-2-fluoro-phenylamine | 0.286 g, 21% | C(C)N(CC)CC1=NC=CC(=C1)C1=CC=2N(C=C1)C(=CN2)C2=CC(=C(C=C2)N)F | C23H24FN5
